2125-05-18 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   - as we attempted to correct his hyponatremia and treat his rhabdo, the
   patient was put on several different IVF's - currently the patient is
   on NS at 200 mL/hr
   - pt needed large amounts of valium for agitation/hallucinations -
   changed to ativan per psych recs - pt was also shaky and diaphoretic
   - [**2030**] - BP in 190's - gave hydralazine 20 mg Iv x 1
   - 2300 - BP 165 - gave hydralazine 10 mg IV x 1
   - have been repleting calcium throughout the afternoon/evening
   - patient developed some slight horizontal nystagmus on exam
   - repleted potassium - 10meq in 100mL x 2
   - 0115 - BP 160 - gave hydralazine 10 mg IV x 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-18**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 86 (57 - 102) bpm
   BP: 146/98(110) {113/57(85) - 196/116(123)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  1,371 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  1,371 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    780 mL
   Urine:
                                                                  1,805 mL
                                                                    780 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (2L)
   SpO2: 100%
   Physical Examination
   General
 Alert, Oriented to person and place
   CV
 RRR, 2/6 systolic murmur loudest at LUSB
   Lungs
 clear to auscultation bilaterally
   Abdomen
 soft, non-tender, non-distended
   Neuro
 5/5 strength on hand grip and foot dorsiflexion, right pupil
   seems larger than left, ?horizontal nystagmus
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   99 mg/dL
   5.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   70 mg/dL
   82 mEq/L
   117 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   Glucose
   122
   131
   132
   95
   92
   97
   99
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7302**]//, Lactic Acid:4.2 mmol/L, Ca++:9.1 mg/dL, Mg++:2.4
   mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   49 y/o M with altered mental status and multiple electrolyte
   abnormalities with history of bipolar disorder on multiple psychiatric
   medications.
   #  Altered Mental Status
 pt had been having continued confusion and
   hallucinations.  Pt
s AMS could be due to several different factors,
   including his hyponatremia, drug ingestion or withdrawal, or delirium
   in the setting of the ICU.
   - Will continue to monitor patient closely with q2hr neuro checks.
   - Continue to give fluids to help treat rhabdo and hyponatremia.
   - Given pt
s development of nystagmus and patient
s injuries that are
   not completely explained, would like to possibly get head imaging.
   Would hold off on this, however, until patient is more cooperative.
   .
   #  Acute Renal Failure
 likely associated with rhabdomyolysis
   - will continue NS at 200mL/hr
   - will continue to replete calcium and potassium PRN
   - will continue to follow any renal recommendations
   - also, will continue q4hr distal pulse checks
   # Rhabdomyolysis
 unclear etiology.  Pt reports having fallen, but his
   history does not match the extent of his bruising and rhabdo.
   - treat as above
   - awaiting social work consult
   .
   # Hyponatremia
 this is slowly correcting with fluids.  Pt did have a
   slight decrease when he was give potassium in sterile water.  However,
   expect that sodium will continue to rise when the patient starts
   receiving normal saline again.
   - continue 200mL/hr of NS
   - continue to monitor electrolytes regularly
 q4hrs
   .
   # Anemia
 hematocrit has remained fairly stable over the past 12
   hours.
   - will continue to monitor Hct and plan to transfuse pt is hematocrit
   were to have a significant drop
   .
   # Bipolar D/o
   - will continue to hold patient
s psych medications
   - Lithium, valproic acid, and carbamazepine levels are WNL.
   .
   # Pneumothorax
 found on CXR yesterday
   - pt is stable from a respiratory standpoint
   - repeat CXR this morning.  Will review with team.
   .
   # HTN
 pts home BP meds were held yesterday.  Hydralazine was used PRN
   to control his BP.
   - continue to use hydralazine PRN for hypertension
   - could possibly restart pt
s atenolol is heart rate remains in an
   acceptable range
   .
   # FEN: IVF (NS at 200 mL/hr) -
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Presumed Full
   Disposition:ICU

2125-05-18 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   - as we attempted to correct his hyponatremia and treat his rhabdo, the
   patient was put on several different IVF's - currently the patient is
   on NS at 200 mL/hr
   - pt needed large amounts of valium for agitation/hallucinations -
   changed to ativan per psych recs - pt was also shaky and diaphoretic
   - [**2030**] - BP in 190's - gave hydralazine 20 mg Iv x 1
   - 2300 - BP 165 - gave hydralazine 10 mg IV x 1
   - have been repleting calcium throughout the afternoon/evening
   - patient developed some slight horizontal nystagmus on exam
   - repleted potassium - 10meq in 100mL x 2
   - 0115 - BP 160 - gave hydralazine 10 mg IV x 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-18**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 86 (57 - 102) bpm
   BP: 146/98(110) {113/57(85) - 196/116(123)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  1,371 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  1,371 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    780 mL
   Urine:
                                                                  1,805 mL
                                                                    780 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (2L)
   SpO2: 100%
   Physical Examination
   General
 Alert, Oriented to person and place
   CV
 RRR, 2/6 systolic murmur loudest at LUSB
   Lungs
 clear to auscultation bilaterally
   Abdomen
 soft, non-tender, non-distended
   Neuro
 5/5 strength on hand grip and foot dorsiflexion, right pupil
   seems larger than left, ?horizontal nystagmus
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   98 mg/dL
   5.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   70 mg/dL
   84 mEq/L
   125 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
   CK [**Numeric Identifier 7310**]  MB 249  MB 0.1  Trop-T 0.03
   Ca 9.0  Mg 2.3  P 5.9
   AST 2615  ALT 543
   PT 12.4  PTT 25.6  INR 1.0
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   Glucose
   122
   131
   132
   95
   92
   97
   99
   Assessment and Plan
   49 y/o M with altered mental status and multiple electrolyte
   abnormalities with history of bipolar disorder on multiple psychiatric
   medications.
   #  Altered Mental Status
 pt had been having continued confusion and
   hallucinations.  Pt
s AMS could be due to several different factors,
   including his hyponatremia, drug ingestion or withdrawal, or delirium
   in the setting of the ICU.
   - Will continue to monitor patient closely with q2hr neuro checks.
   - Continue to give fluids to help treat rhabdo and hyponatremia.
   - Given pt
s development of nystagmus and patient
s injuries that are
   not completely explained, would like to possibly get head imaging.
   Would hold off on this, however, until patient is more cooperative.
   .
   #  Acute Renal Failure
 likely associated with rhabdomyolysis
   - will continue 1/2NS at 150 mL/hr
   - will continue to replete potassium PRN
   - will hold off on repleting calcium per renal recommendations
   - will continue to follow any renal recommendations
   - also, will continue q4hr distal pulse checks
   # Rhabdomyolysis
 unclear etiology.  Pt reports having fallen, but his
   history does not match the extent of his bruising and rhabdo.
   - treat as above
   - awaiting social work consult
   .
   # Hyponatremia
 this is slowly correcting with fluids.  Pt did have a
   slight decrease when he was give potassium in sterile water.  However,
   expect that sodium will continue to rise when the patient starts
   receiving normal saline again.
   - continue 150mL/hr of 1/2NS
   - continue to monitor electrolytes regularly
 q4hrs
   .
   # Anemia
 hematocrit has remained fairly stable over the past 12
   hours.
   - will continue to monitor Hct and plan to transfuse pt is hematocrit
   were to have a significant drop
   .
   # Bipolar D/o
   - will continue to hold patient
s psych medications
   - Lithium, valproic acid, and carbamazepine levels are WNL.
   .
   # Pneumothorax
 found on CXR yesterday
   - pt is stable from a respiratory standpoint
   - repeat CXR this morning.  Pneumo looked improved.
   - will look at one more CXR tomorrow
   .
   # HTN
 pts home BP meds were held yesterday.  Hydralazine was used PRN
   to control his BP.
   - continue to use hydralazine PRN for hypertension
   - could possibly restart pt
s atenolol is heart rate remains in an
   acceptable range
   .
   # FEN: IVF (1/2NS at 1500 mL/hr) -
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Presumed Full
   Disposition:ICU

2125-05-18 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   - social work consulted?
   - as we attempted to correct his hyponatremia and treat his rhabdo, the
   patient was put on several different IVF's - currently the patient is
   on NS at 200 mL/hr
   - pt needed large amounts of valium for agitation/hallucinations -
   changed to ativan per psych recs - pt was also shaky and diaphoretic
   - [**2030**] - BP in 190's - gave hydralazine 20 mg Iv x 1
   - 2300 - BP 165 - gave hydralazine 10 mg IV x 1
   - have been repleting calcium throughout the afternoon/evening
   - patient developed some slight horizontal nystagmus on exam
   - repleted potassium - 10meq in 100mL x 2
   - 0115 - BP 160 - gave hydralazine 10 mg IV x 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-18**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 86 (57 - 102) bpm
   BP: 146/98(110) {113/57(85) - 196/116(123)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  1,371 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  1,371 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    780 mL
   Urine:
                                                                  1,805 mL
                                                                    780 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   99 mg/dL
   5.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   70 mg/dL
   82 mEq/L
   117 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   Glucose
   122
   131
   132
   95
   92
   97
   99
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7302**]//, Lactic Acid:4.2 mmol/L, Ca++:9.1 mg/dL, Mg++:2.4
   mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Presumed Full
   Disposition:ICU

2125-05-18 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   - social work consulted?
   - as we attempted to correct his hyponatremia and treat his rhabdo, the
   patient was put on several different IVF's - currently the patient is
   on NS at 200 mL/hr
   - pt needed large amounts of valium for agitation/hallucinations -
   changed to ativan per psych recs - pt was also shaky and diaphoretic
   - [**2030**] - BP in 190's - gave hydralazine 20 mg Iv x 1
   - 2300 - BP 165 - gave hydralazine 10 mg IV x 1
   - have been repleting calcium throughout the afternoon/evening
   - patient developed some slight horizontal nystagmus on exam
   - repleted potassium - 10meq in 100mL x 2
   - 0115 - BP 160 - gave hydralazine 10 mg IV x 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-18**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 86 (57 - 102) bpm
   BP: 146/98(110) {113/57(85) - 196/116(123)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  1,371 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  1,371 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    780 mL
   Urine:
                                                                  1,805 mL
                                                                    780 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (2L)
   SpO2: 100%
   Physical Examination
   General
 Alert, Oriented to person and place
   CV
 RRR, 2/6 systolic murmur loudest at LUSB
   Lungs
 clear to auscultation bilaterally
   Abdomen
 soft, non-tender, non-distended
   Neuro
 5/5 strength on hand grip and foot dorsiflexion, right pupil
   seems larger than left, ?horizontal nystagmus
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   99 mg/dL
   5.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   70 mg/dL
   82 mEq/L
   117 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   Glucose
   122
   131
   132
   95
   92
   97
   99
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7302**]//, Lactic Acid:4.2 mmol/L, Ca++:9.1 mg/dL, Mg++:2.4
   mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   49 y/o M with altered mental status and multiple electrolyte
   abnormalities with history of bipolar disorder on multiple psychiatric
   medications.
   #  Altered Mental Status
 pt had been having continued confusion and
   hallucinations.  Pt
s AMS could be due to several different factors,
   including his hyponatremia, drug ingestion or withdrawal, or delirium
   in the setting of the ICU.
   - Will continue to monitor patient closely with q2hr neuro checks.
   - Continue to give fluids to help treat rhabdo and hyponatremia.
   - Given pt
s development of nystagmus and patient
s injuries that are
   not completely explained, would like to possibly get head imaging.
   Would hold off on this, however, until patient is more cooperative.
   .
   #  Acute Renal Failure
 likely associated with rhabdomyolysis
   - will continue NS at 200mL/hr
   - will continue to replete calcium and potassium PRN
   - will continue to follow any renal recommendations
   - also, will continue q4hr distal pulse checks
   # Rhabdomyolysis
 unclear etiology.  Pt reports having fallen, but his
   history does not match the extent of his bruising and rhabdo.
   - treat as above
   - awaiting social work consult
   .
   # Hyponatremia
 this is slowly correcting with fluids.  Pt did have a
   slight decrease when he was give potassium in sterile water.  However,
   expect that sodium will continue to rise when the patient starts
   receiving normal saline again.
   - continue 200mL/hr of NS
   - continue to monitor electrolytes regularly
 q4hrs
   .
   # Anemia
 hematocrit has remained fairly stable over the past 12
   hours.
   - will continue to monitor Hct and plan to transfuse pt is hematocrit
   were to have a significant drop
   .
   # Bipolar D/o
   - will continue to hold patient
s psych medications
   - Lithium, valproic acid, and carbamazepine levels are WNL.
   .
   # Pneumothorax
 found on CXR yesterday
   - pt is stable from a respiratory standpoint
   - repeat CXR this morning.  Will review with team.
   .
   # HTN
 pts home BP meds were held yesterday.  Hydralazine was used PRN
   to control his BP.
   - continue to use hydralazine PRN for hypertension
   - could possibly restart pt
s atenolol is heart rate remains in an
   acceptable range
   .
   # FEN: IVF (NS at 200 mL/hr) -
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Presumed Full
   Disposition:ICU

2125-05-18 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   - social work consulted?
   - as we attempted to correct his hyponatremia and treat his rhabdo, the
   patient was put on several different IVF's - currently the patient is
   on NS at 200 mL/hr
   - pt needed large amounts of valium for agitation/hallucinations -
   changed to ativan per psych recs - pt was also shaky and diaphoretic
   - [**2030**] - BP in 190's - gave hydralazine 20 mg Iv x 1
   - 2300 - BP 165 - gave hydralazine 10 mg IV x 1
   - have been repleting calcium throughout the afternoon/evening
   - patient developed some slight horizontal nystagmus on exam
   - repleted potassium - 10meq in 100mL x 2
   - 0115 - BP 160 - gave hydralazine 10 mg IV x 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-18**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 86 (57 - 102) bpm
   BP: 146/98(110) {113/57(85) - 196/116(123)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  1,371 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  1,371 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    780 mL
   Urine:
                                                                  1,805 mL
                                                                    780 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   99 mg/dL
   5.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   70 mg/dL
   82 mEq/L
   117 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   Glucose
   122
   131
   132
   95
   92
   97
   99
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7302**]//, Lactic Acid:4.2 mmol/L, Ca++:9.1 mg/dL, Mg++:2.4
   mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   This is a 49 yo M with a history of bipolar disorder on multiple
   psychiatric medications who presents with confusion, profound
   hyponatremia, renal failure and rhabdomyolysis.
   #  Altered Mental Status - osm gap is 15, which is high. Has many
   reasons to be altered, including hyponatremia, uremia, drug or toxin
   ingestion. Renal feels that he likely dropped his sodium quickly.
   Ingestion is also high on the differential, given his osm gap. TTP is
   less likely given normal platelets here.
   - monitor closely
   - neuro checks q2h
   .
   #  Acute Renal Failure - likely ATN secondary to rhabdomyolysis with
   critically high CK and evidence of myoglobinuria. FeUrea is 62%.
   Abnormal ALT/AST likely muscle source. Unclear underlying etiology of
   his rhabdo - differential includes alcohol, drugs and toxins infections
   (including HIV), electrolyte abnormalities (unclear what was
   precipitant), endocrinopathies and inflammatory myopathy. NMS is also
   on the differential, but patient's tone and temperature were normal. No
   obvious signs of infection. Osm gap raises suspicion for ingestion,
   initial basic tox screens were only positive for benzos. A seizure is
   possible, as he lives alone. Diffuse ecchymoses could be indication for
   injury but history is vague. My suspicion is that the patient suffered
   traumatic attack given the extent of his injuries. It's unclear if he
   does not recall or if he does not feel safe to talk to us about it at
   this time.
   - renal c/s now
   - NS @ 75cc/hr continuous initially, transitioned to isotonic bicarb
   200cc/hr x 2L
   - monitor electrolytes Q2h for the next 6 hours- monitor carefully for
   worsening hyponatremia, hypocalcemia, acidosis, hyperkalemia from
   cellular injury.
   - 2g calcium IV now, check ionized calcium
   - social work c/s
   - psychiatry c/s
   - zofran prn for nausea
   - renal to look at sediment - appreciate recs
   - monitor for compartment syndrome with q4h distal pulses
   .
   # Hyponatremia - unclear etiology. ?psychiatric medications misuse or
   overdose, psychogenic polydipsia in the setting of ATN. Renal feels
   most likely the latter. Patient seems to think that this has happened
   to him in the past and it was med related, however denies any recent
   changes in medications or doses.
   - per renal not likely to drop sodium with isotonic bicarb but may
   shoot up too quickly, monitor very carefuly
   - Q2h neuro checks
   - Q2h electrolyte checks
   .
   # Anemia
 recheck hct in afternoon. T&S. Need blood consent.
   .
   # Bipolar D/o - holding all psych meds, await input from psych c/s. Do
   not want to exacerbate hyponatremia right now if possible. Ativan prn
   as needed for agitation (QTc prolonged would avoid haldol for now).
   .
   # Pneumothorax - right sided apical. Surgery evaluated. Will repeat CXR
   in afternoon to reevaluate. Patient stable from a respiratory
   standpoint.
   .
   # HTN - holding atenolol for HR in 50's, holding HCTZ for hyponatremia.
   Use hydralazine as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes aggressively with hypoNa mgmt
   as above, regular diet with free water restriction.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Presumed Full
   Disposition:ICU

2125-05-18 10:29:00 Physician Attending Progress Note
Chief Complaint: ARF, rhabdo, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   Na up with hydration switiching between NS and 1/2NS, making urine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2125-5-18**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 63 (57 - 102) bpm
   BP: 108/53(66) {108/53(66) - 196/116(123)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  2,279 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  2,279 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                  1,410 mL
   Urine:
                                                                  1,805 mL
                                                                  1,410 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    869 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
    Gen: lying in bed, somnolent but arousable, answers some ?
   appropriately, but then asking odd ?s about dogs/graveyards
   HEENT:  o/p dry
   CV:  RR nl s1/s2
   Chest: CTA bilat
 post right ecchymoses and ant left ecchymosis, no
   crepitus or flail chest
   Abd soft +BS
   Ext: large ecchymosis over both knees
   Neuro: as above
   Labs / Radiology
   9.4 g/dL
   174 K/uL
   98 mg/dL
   5.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   70 mg/dL
   84 mEq/L
   123 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   5.5
   TropT
   0.03
   Glucose
   122
   131
   132
   95
   92
   97
   99
   98
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7310**]/249/0.03, ALT / AST:[**Telephone/Fax (1) 7311**], Alk Phos / T
   Bili:49/1.5, Lactic Acid:4.2 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   Very odd story of this 49 male with bipolar who presents after fall
   with rhabdo, dense renal failure, hypoNa, and altered mental status
   1.       HypoNatremia: DDX is med related with lamotrigine, HCTZ,
   Cymbalta,  versus unknown ingestion, versus psychogenic polydipsia.
   Appreciate all renal reccs- we are now giving
 NS at 150cc/hr checking
   Na q4- has been 123-125 range
   2.        Altered Mental Status: likely delirium with possible
   component of hypoNa, and underlying psych disorder
 following closely.
   Repeat head CT of failing to clear.
   3.         Rhabdo: very high CK with active ARF- now resuscitating with
   fluids, trend CK, Ca and Phos, No more Ca repletion could overshoot as
   recovers
   4.         ARF: secondary to rhabdo but making urine now, renally dose
   all meds, avoid nephrotoxins,
   5.          Right PTX: serial CXR, trauma team to follow reoeat CXR in
   AM
   ICU Care
   Nutrition: po diet if able, free water restrict
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: po diet
   Communication:  spoke w Mother yesterday
   [**Name2 (NI) 156**] status: Full code
   Disposition : ICU until we can get behavior under control
   Total time spent: 35

2125-05-18 10:29:00 Physician Attending Progress Note
Chief Complaint: ARF, rhabdo, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2125-5-18**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 63 (57 - 102) bpm
   BP: 108/53(66) {108/53(66) - 196/116(123)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  2,279 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  2,279 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                  1,410 mL
   Urine:
                                                                  1,805 mL
                                                                  1,410 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    869 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
    Gen:sitting in bed, alert, conversant, answering ? appropriately
   HEENT: o/p dry
   CV: RR nl s1/s2 + soft rub
   Chest: CTA bilat
 post right ecchymoses and ant left ecchymosis, no
   crepitus or falial chest
   Abd soft +BS
   Ext: large ecchymosis over both knees
   Neuro: A and O x 3
   Labs / Radiology
   9.4 g/dL
   174 K/uL
   98 mg/dL
   5.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   70 mg/dL
   84 mEq/L
   123 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   5.5
   TropT
   0.03
   Glucose
   122
   131
   132
   95
   92
   97
   99
   98
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7310**]/249/0.03, ALT / AST:[**Telephone/Fax (1) 7311**], Alk Phos / T
   Bili:49/1.5, Lactic Acid:4.2 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   Very odd story of this 49 male with bipolar who presents after fall
   with rhabdo, dense renal failure, hypoNa, and altered mental status
   1.       HypoNatremia: DDX is med related with lamotrigine, HCTZ,
   versus ingestion, versus psychogenic polydipsia. Appreciate all renal
   reccs- we are now giving
 NS at 150cc/hr checking Na q4- has been
   123-125 range
   2.        Altered Mental Status: likely delirium with possible
   component of hypoNa,
   3.         Rhabdo: very high CK with active ARF- now resuscitating with
   4.         ARF: secondary to rhabdo but making urine now, renally dose
   all meds, avoid nephrotoxins,
   5.          Right PTX: serial CXR, trauma team to follow reoeat CXR
   this evening.
   6.        Altered Mental Status: unknown baseline, but hypoNa leds the
   list, need more baseline info, correcting Na with isotonic bicarb but
   have to carefully monitor lytes and q2 neuro checks. Likely repeat head
   CT here if can
t get OSH films  - but wre neg at that time. [**Month (only) 8**] need to
   reimage as needed.
   ICU Care
   Nutrition: po diet if able, free water restrict
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: po diet
   Communication:  spoke w Mother yesterday
   [**Name2 (NI) 156**] status: Full code
   Disposition : ICU until we can get behavior under control
   Total time spent: 35

2125-05-18 10:29:00 Physician Attending Progress Note
Chief Complaint: ARF, rhabdo, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2125-5-17**] 08:00 PM
   EKG obtained but unable to get satisfactory tracing due to pt's
   agitation and movement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-5-17**] 03:00 PM
   Lorazepam (Ativan) - [**2125-5-17**] 04:50 PM
   Hydralazine - [**2125-5-18**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2125-5-18**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 63 (57 - 102) bpm
   BP: 108/53(66) {108/53(66) - 196/116(123)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,438 mL
                                                                  2,279 mL
   PO:
             TF:
   IVF:
                                                                  3,438 mL
                                                                  2,279 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                  1,410 mL
   Urine:
                                                                  1,805 mL
                                                                  1,410 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    869 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Labs / Radiology
   9.4 g/dL
   174 K/uL
   98 mg/dL
   5.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   70 mg/dL
   84 mEq/L
   123 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  08:20 AM
                             [**2125-5-17**]  11:41 AM
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.2
   5.9
   6.0
   6.0
   6.0
   5.9
   5.7
   5.5
   TropT
   0.03
   Glucose
   122
   131
   132
   95
   92
   97
   99
   98
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7310**]/249/0.03, ALT / AST:[**Telephone/Fax (1) 7311**], Alk Phos / T
   Bili:49/1.5, Lactic Acid:4.2 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   Very odd story of this 49 male with bipolar who presents after fall
   with rhabdo, dense renal failure, hypoNa, and altered mental status
   1.       HypoNatremia: DDX is med related with lamotrigine, HCTZ,
   versus ingestion, versus psychogenic polydipsia. Appreciate all renal
   reccs- we have given D5 w 3 AMPS bicarb and watched Na closely so as
   not to overcorrect Na too quickly but also to protect the kidneys with
   rhabdo. Will trend sodium q2 and ajust all meds closely.
   2.       Osm gap: recalculate with new labs
 will send ethylene
   glycol, have consulted tox and agree unlikely and out of window for
   fomepizole. Will trend closlet
   Rhabdo: very high CK with active ARF, needs aggressive IVF
 will
   start  D5W w 3 amps bicarb and transition to NS as possible. Watch UOP
   ARF: secondary to rhabdo but making urine now, renally doe all meds,
   avoid nephrotoxins,
   Right PTX: serial CXR, trauma team to follow reoeat CXR this evening.
   Altered Mental Status: unknown baseline, but hypoNa leds the list, need
   more baseline info, correcting Na with isotonic bicarb but have to
   carefully monitor lytes and q2 neuro checks. Likely repeat head CT here
   if can
t get OSH films  - but wre neg at that time. [**Month (only) 8**] need to reimage
   as needed.
   Needs Psych and Social Work consults
   Trying to reach parents
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2125-05-19 03:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - reached pt's psychiatrist [**First Name8 (NamePattern2) 137**] [**Last Name (NamePattern1) 7328**] ([**Hospital **] Health [**Name2 (NI) 151**] [**Telephone/Fax (1) 7329**],
   extension [**Numeric Identifier 7330**]). Not able to provide much information other than pt
   comes in with EtOH on his breath often.
   - 1830 hrs: per renal, switched pt from 1/2NS to NS and added lasix x 1
   dose (given Na 121)
   - sent RPR, B12, folate (normal), TSH (wnl), AM cortisol
   - f/u cxr in AM to ensure resolution of ptx
   - check ekg in AM to ensure non-prolonged QTc
   - social work consult in computer
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-5-18**] 06:00 PM
   FoLIC Acid
   Furosemide
   Insulin
   Lorazepam
   Metoprolol Tartrate
   Multivitamins
   Nicotine Patch
   Ondansetron
   Thiamine
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-19**] 03:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 94 (63 - 103) bpm
   BP: 155/74(95) {97/53(66) - 168/99(111)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,429 mL
                                                                    728 mL
   PO:
                                                                  1,020 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  4,409 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    670 mL
   Urine:
                                                                  3,290 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,139 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General: Alert, oriented, but affect strange. Perseverates and
   continues to hallucinate.. no acute distress
   HEENT: Sclerae anicteric, MMM, oropharynx clear. Large abrasion over
   nose and smaller bruises over forehead with evidence of excoriation.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, +rub
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   119 mg/dL
   4.7 mg/dL
   23 mEq/L
   3.1 mEq/L
   73 mg/dL
   90 mEq/L
   126 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.0
   6.0
   6.0
   5.9
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   TropT
   0.03
   Glucose
   132
   95
   92
   97
   99
   98
   95
   134
   126
   119
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7331**]/249/0.03, ALT / AST:[**Telephone/Fax (1) 7311**], Alk Phos / T
   Bili:49/1.5, Lactic Acid:4.2 mmol/L, LDH:3140 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 49 yo M with a history of bipolar
   disorder on multiple psychiatric medications who presents with
   confusion, profound hyponatremia, renal failure and rhabdomyolysis.
   #  Altered Mental Status - osm gap is 15, which is high. Has many
   reasons to be altered, including hyponatremia, uremia, drug or toxin
   ingestion. Renal feels that he likely dropped his sodium quickly.
   Ingestion is also high on the differential, given his osm gap.
   - monitor closely
   -Try redirection for delirium.
   .
   #  Acute Renal Failure - likely ATN secondary to rhabdomyolysis with
   critically high CK and evidence of myoglobinuria. FeUrea is 62%.
   Abnormal ALT/AST likely muscle source. Unclear underlying etiology of
   his rhabdo - differential includes alcohol, drugs and toxins infections
   (including HIV), electrolyte abnormalities (unclear what was
   precipitant), endocrinopathies and inflammatory myopathy. NMS is also
   on the differential, but patient's tone and temperature were normal. No
   obvious signs of infection. Osm gap raises suspicion for ingestion,
   initial basic tox screens were only positive for benzos. A seizure is
   possible, as he lives alone. Diffuse ecchymoses could be indication for
   injury but history is vague. My suspicion is that the patient suffered
   traumatic attack given the extent of his injuries. It's unclear if he
   does not recall or if he does not feel safe to talk to us about it at
   this time.
   - renal c/s now
   - monitor electrolytes
   - social work c/s awaiting recs.
   - zofran prn for nausea
   - renal to look at sediment - appreciate recs
   .
   # Hyponatremia - unclear etiology. ?psychiatric medications misuse or
   overdose, psychogenic polydipsia in the setting of ATN. Renal feels
   most likely the latter. Patient seems to think that this has happened
   to him in the past and it was med related, however denies any recent
   changes in medications or doses.
   - per renal switched to NS.
   -Continue to follow lytes 1200/1800hrs.
   .
   # Bipolar D/o - holding all psych meds, await recs from psych c/s. Do
   not want to exacerbate hyponatremia right now if possible. Will try
   redirection and distraction for agitation but may use Haldol 2mg IV PRN
   and follow EKG to eval QTc (currently 463).  [**Month (only) 8**] also use Ativan
   however this made patient more delirious in past.
   -EKG to follow QTc
   .
   # Pneumothorax - right sided apical. Surgery evaluated. CXR repeated
   this AM, however patient supine making it difficult to evaluate small
   pneumothorax.  Once patient able to participate for PA/Lat will
   re-image.
   # HTN - holding atenolol for HR in 50's, holding HCTZ for hyponatremia.
   Use hydralazine as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes aggressively with hypoNa mgmt
   as above, regular diet with free water restriction.
   .
   ICU Care
   Nutrition: Renal diet with free water restriction
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT: SCD
   Stress ulcer:  Pt eating.
   Comments:
   Communication:
   Code status: Full
   Disposition:

2125-05-19 03:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - reached pt's psychiatrist [**First Name8 (NamePattern2) 137**] [**Last Name (NamePattern1) 7328**] ([**Hospital **] Health [**Name2 (NI) 151**] [**Telephone/Fax (1) 7329**],
   extension [**Numeric Identifier 7330**]). Not able to provide much information other than pt
   comes in with EtOH on his breath often.
   - 1830 hrs: per renal, switched pt from 1/2NS to NS and added lasix x 1
   dose (given Na 121)
   - sent RPR, B12, folate (normal), TSH (wnl), AM cortisol
   - f/u cxr in AM to ensure resolution of ptx
   - check ekg in AM to ensure non-prolonged QTc
   - social work consult in computer
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-5-18**] 06:00 PM
   FoLIC Acid
   Furosemide
   Insulin
   Lorazepam
   Metoprolol Tartrate
   Multivitamins
   Nicotine Patch
   Ondansetron
   Thiamine
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-19**] 03:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 94 (63 - 103) bpm
   BP: 155/74(95) {97/53(66) - 168/99(111)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,429 mL
                                                                    728 mL
   PO:
                                                                  1,020 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  4,409 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    670 mL
   Urine:
                                                                  3,290 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,139 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   119 mg/dL
   4.7 mg/dL
   23 mEq/L
   3.1 mEq/L
   73 mg/dL
   90 mEq/L
   126 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.0
   6.0
   6.0
   5.9
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   TropT
   0.03
   Glucose
   132
   95
   92
   97
   99
   98
   95
   134
   126
   119
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7331**]/249/0.03, ALT / AST:[**Telephone/Fax (1) 7311**], Alk Phos / T
   Bili:49/1.5, Lactic Acid:4.2 mmol/L, LDH:3140 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: This is a 49 yo M with a history of bipolar
   disorder on multiple psychiatric medications who presents with
   confusion, profound hyponatremia, renal failure and rhabdomyolysis.
   #  Altered Mental Status - osm gap is 15, which is high. Has many
   reasons to be altered, including hyponatremia, uremia, drug or toxin
   ingestion. Renal feels that he likely dropped his sodium quickly.
   Ingestion is also high on the differential, given his osm gap.
   - monitor closely
   - neuro checks q2h
   .
   #  Acute Renal Failure - likely ATN secondary to rhabdomyolysis with
   critically high CK and evidence of myoglobinuria. FeUrea is 62%.
   Abnormal ALT/AST likely muscle source. Unclear underlying etiology of
   his rhabdo - differential includes alcohol, drugs and toxins infections
   (including HIV), electrolyte abnormalities (unclear what was
   precipitant), endocrinopathies and inflammatory myopathy. NMS is also
   on the differential, but patient's tone and temperature were normal. No
   obvious signs of infection. Osm gap raises suspicion for ingestion,
   initial basic tox screens were only positive for benzos. A seizure is
   possible, as he lives alone. Diffuse ecchymoses could be indication for
   injury but history is vague. My suspicion is that the patient suffered
   traumatic attack given the extent of his injuries. It's unclear if he
   does not recall or if he does not feel safe to talk to us about it at
   this time.
   - renal c/s now
   - NS @ 75cc/hr continuous initially, transitioned to isotonic bicarb
   200cc/hr x 2L
   - monitor electrolytes Q2h for the next 6 hours- monitor carefully for
   worsening hyponatremia, hypocalcemia acidosis, hyperkalemia from
   cellular injury.
   - 2g calcium IV now, check ionized calcium
   - social work c/s
   - psychiatry c/s
   - zofran prn for nausea
   - renal to look at sediment - appreciate recs
   .
   # Hyponatremia - unclear etiology. ?psychiatric medications misuse or
   overdose, psychogenic polydipsia in the setting of ATN. Renal feels
   most likely the latter. Patient seems to think that this has happened
   to him in the past and it was med related, however denies any recent
   changes in medications or doses.
   - per renal not likely to drop sodium with isotonic bicarb but may
   shoot up too quickly, monitor very carefuly
   - Q2h neuro checks
   - Q2h electrolyte checks
   .
   # Bipolar D/o - holding all psych meds, await input from psych c/s. Do
   not want to exacerbate hyponatremia right now if possible. Ativan prn
   as needed for agitation (QTc prolonged would avoid haldol for now).
   -EKG to follow QTc
   -EEG per psych recs.
   .
   # Pneumothorax - right sided apical. Surgery evaluated. CXR repeated
   this AM, however patient supine making it difficult to evaluate small
   pneumothorax.
   # HTN - holding atenolol for HR in 50's, holding HCTZ for hyponatremia.
   Use hydralazine as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes aggressively with hypoNa mgmt
   as above, regular diet with free water restriction.
   .
   # Prophylaxis: boots
   .
   # Access: peripherals x 3
   .
   # Code: presumed full
   .
   # Communication: Patient and parents - message left for them
   .
   # Disposition: pending above
   ICU Care
   Nutrition: Regular diet with free water restriction
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-05-19 03:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - reached pt's psychiatrist [**First Name8 (NamePattern2) 137**] [**Last Name (NamePattern1) 7328**] ([**Hospital **] Health [**Name2 (NI) 151**] [**Telephone/Fax (1) 7329**],
   extension [**Numeric Identifier 7330**]). Not able to provide much information other than pt
   comes in with EtOH on his breath often.
   - 1830 hrs: per renal, switched pt from 1/2NS to NS and added lasix x 1
   dose (given Na 121)
   - sent RPR, B12, folate (normal), TSH (wnl), AM cortisol
   - f/u cxr in AM to ensure resolution of ptx
   - check ekg in AM to ensure non-prolonged QTc
   - social work consult in computer
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-5-18**] 06:00 PM
   FoLIC Acid
   Furosemide
   Insulin
   Lorazepam
   Metoprolol Tartrate
   Multivitamins
   Nicotine Patch
   Ondansetron
   Thiamine
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-19**] 03:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 94 (63 - 103) bpm
   BP: 155/74(95) {97/53(66) - 168/99(111)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,429 mL
                                                                    728 mL
   PO:
                                                                  1,020 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  4,409 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    670 mL
   Urine:
                                                                  3,290 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,139 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   119 mg/dL
   4.7 mg/dL
   23 mEq/L
   3.1 mEq/L
   73 mg/dL
   90 mEq/L
   126 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.0
   6.0
   6.0
   5.9
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   TropT
   0.03
   Glucose
   132
   95
   92
   97
   99
   98
   95
   134
   126
   119
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7331**]/249/0.03, ALT / AST:[**Telephone/Fax (1) 7311**], Alk Phos / T
   Bili:49/1.5, Lactic Acid:4.2 mmol/L, LDH:3140 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: This is a 49 yo M with a history of bipolar
   disorder on multiple psychiatric medications who presents with
   confusion, profound hyponatremia, renal failure and rhabdomyolysis.
   #  Altered Mental Status - osm gap is 15, which is high. Has many
   reasons to be altered, including hyponatremia, uremia, drug or toxin
   ingestion. Renal feels that he likely dropped his sodium quickly.
   Ingestion is also high on the differential, given his osm gap.
   - monitor closely
   - neuro checks q2h
   .
   #  Acute Renal Failure - likely ATN secondary to rhabdomyolysis with
   critically high CK and evidence of myoglobinuria. FeUrea is 62%.
   Abnormal ALT/AST likely muscle source. Unclear underlying etiology of
   his rhabdo - differential includes alcohol, drugs and toxins infections
   (including HIV), electrolyte abnormalities (unclear what was
   precipitant), endocrinopathies and inflammatory myopathy. NMS is also
   on the differential, but patient's tone and temperature were normal. No
   obvious signs of infection. Osm gap raises suspicion for ingestion,
   initial basic tox screens were only positive for benzos. A seizure is
   possible, as he lives alone. Diffuse ecchymoses could be indication for
   injury but history is vague. My suspicion is that the patient suffered
   traumatic attack given the extent of his injuries. It's unclear if he
   does not recall or if he does not feel safe to talk to us about it at
   this time.
   - renal c/s now
   - NS @ 75cc/hr continuous initially, transitioned to isotonic bicarb
   200cc/hr x 2L
   - monitor electrolytes Q2h for the next 6 hours- monitor carefully for
   worsening hyponatremia, hypocalcemia acidosis, hyperkalemia from
   cellular injury.
   - 2g calcium IV now, check ionized calcium
   - social work c/s
   - psychiatry c/s
   - zofran prn for nausea
   - renal to look at sediment - appreciate recs
   .
   # Hyponatremia - unclear etiology. ?psychiatric medications misuse or
   overdose, psychogenic polydipsia in the setting of ATN. Renal feels
   most likely the latter. Patient seems to think that this has happened
   to him in the past and it was med related, however denies any recent
   changes in medications or doses.
   - per renal not likely to drop sodium with isotonic bicarb but may
   shoot up too quickly, monitor very carefuly
   - Q2h neuro checks
   - Q2h electrolyte checks
   .
   # Bipolar D/o - holding all psych meds, await input from psych c/s. Do
   not want to exacerbate hyponatremia right now if possible. Ativan prn
   as needed for agitation (QTc prolonged would avoid haldol for now).
   -EKG to follow QTc
   -EEG per psych recs.
   .
   # Pneumothorax - right sided apical. Surgery evaluated. Will repeat CXR
   in afternoon to reevaluate. Patient stable from a respiratory
   standpoint.
   .
   # HTN - holding atenolol for HR in 50's, holding HCTZ for hyponatremia.
   Use hydralazine as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes aggressively with hypoNa mgmt
   as above, regular diet with free water restriction.
   .
   # Prophylaxis: boots
   .
   # Access: peripherals x 3
   .
   # Code: presumed full
   .
   # Communication: Patient and parents - message left for them
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-05-19 03:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - reached pt's psychiatrist [**First Name8 (NamePattern2) 137**] [**Last Name (NamePattern1) 7328**] ([**Hospital **] Health [**Name2 (NI) 151**] [**Telephone/Fax (1) 7329**],
   extension [**Numeric Identifier 7330**]). Not able to provide much information other than pt
   comes in with EtOH on his breath often.
   - 1830 hrs: per renal, switched pt from 1/2NS to NS and added lasix x 1
   dose (given Na 121)
   - sent RPR, B12, folate (normal), TSH (wnl), AM cortisol
   - f/u cxr in AM to ensure resolution of ptx
   - check ekg in AM to ensure non-prolonged QTc
   - social work consult in computer
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-5-18**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-19**] 03:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 94 (63 - 103) bpm
   BP: 155/74(95) {97/53(66) - 168/99(111)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,429 mL
                                                                    728 mL
   PO:
                                                                  1,020 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  4,409 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    670 mL
   Urine:
                                                                  3,290 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,139 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   119 mg/dL
   4.7 mg/dL
   23 mEq/L
   3.1 mEq/L
   73 mg/dL
   90 mEq/L
   126 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2125-5-17**]  04:02 PM
                             [**2125-5-17**]  06:23 PM
                             [**2125-5-17**]  08:36 PM
                             [**2125-5-17**]  10:29 PM
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
   WBC
   13.6
   14.0
   11.3
   Hct
   25.9
   26.1
   25.6
   Plt
   190
   165
   174
   Cr
   6.0
   6.0
   6.0
   5.9
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   TropT
   0.03
   Glucose
   132
   95
   92
   97
   99
   98
   95
   134
   126
   119
   Other labs: PT / PTT / INR:12.4/25.6/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7331**]/249/0.03, ALT / AST:[**Telephone/Fax (1) 7311**], Alk Phos / T
   Bili:49/1.5, Lactic Acid:4.2 mmol/L, LDH:3140 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-05-20 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-19**] 09:02 AM
   [**5-19**]
   -Spoke with Mrs. [**Name (NI) 985**] (Pts Mother) and updated her on his status.
   -Per Renal redose lasix 40mg IV if Uosm rise or serum Na falls.
   Continue forced diuresis with NS or equivalent.
   -Per Psych may treat aggitation with 2-5mg Haldol IV/PO and follow QTc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-20**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 60 (59 - 117) bpm
   BP: 134/71(88) {130/70(84) - 176/85(105)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,440 mL
                                                                  1,154 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  4,360 mL
                                                                  1,154 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    850 mL
   Urine:
                                                                  3,020 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.4 g/dL
   96 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.1 mEq/L
   61 mg/dL
   101 mEq/L
   133 mEq/L
   23.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
                             [**2125-5-19**]  05:57 AM
                             [**2125-5-19**]  11:55 AM
                             [**2125-5-19**]  05:40 PM
                             [**2125-5-20**]  04:17 AM
   WBC
   11.3
   12.3
   10.0
   Hct
   25.6
   26.2
   23.5
   Plt
   174
   219
   230
   Cr
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   4.6
   4.4
   3.9
   3.5
   TropT
   0.03
   Glucose
   99
   98
   95
   134
   126
   119
   124
   119
   107
   96
   Other labs: PT / PTT / INR:11.8/24.8/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7357**]/249/0.03, ALT / AST:317/625, Alk Phos / T Bili:41/0.7,
   Lactic Acid:4.2 mmol/L, LDH:1208 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Cdiff
 negative
   RPR, stool cx, stool campylobacter PENDING
   Assessment and Plan
   49 y/o M with altered mental status and multiple electrolytes with a
   history of bipolar disorder on multiple psychiatric medications.
   # Hyponatremia
 improving.   Most recent sodium this morning was 133.
   Continue
   - per renal switched to NS.
   -Continue to follow lytes 1200/1800hrs.
   # Hypokalemia
   #  Acute Renal Failure - likely ATN secondary to rhabdomyolysis with
   critically high CK and evidence of myoglobinuria. FeUrea is 62%.
   Abnormal ALT/AST likely muscle source. Unclear underlying etiology of
   his rhabdo - differential includes alcohol, drugs and toxins infections
   (including HIV), electrolyte abnormalities (unclear what was
   precipitant), endocrinopathies and inflammatory myopathy. NMS is also
   on the differential, but patient's tone and temperature were normal. No
   obvious signs of infection. Osm gap raises suspicion for ingestion,
   initial basic tox screens were only positive for benzos. A seizure is
   possible, as he lives alone. Diffuse ecchymoses could be indication for
   injury but history is vague. My suspicion is that the patient suffered
   traumatic attack given the extent of his injuries. It's unclear if he
   does not recall or if he does not feel safe to talk to us about it at
   this time.
   - renal c/s now
   - monitor electrolytes
   - social work c/s awaiting recs.
   - zofran prn for nausea
   - renal to look at sediment - appreciate recs
   #  Altered Mental Status
   - will continue to closely monitor patient
s mental status
   - continue to administer fluids for hyponatremia/rhabdo
   # Bipolar D/o - holding all psych meds, await recs from psych c/s. Do
   not want to exacerbate hyponatremia right now if possible. Will try
   redirection and distraction for agitation but may use Haldol 2mg IV PRN
   and follow EKG to eval QTc (currently 463).  [**Month (only) 8**] also use Ativan
   however this made patient more delirious in past.
   -EKG to follow QTc
   .
   # Pneumothorax - right sided apical. Surgery evaluated. CXR repeated
   this AM, however patient supine making it difficult to evaluate small
   pneumothorax.  Once patient able to participate for PA/Lat will
   re-image.
   # HTN - holding atenolol for HR in 50's, holding HCTZ for hyponatremia.
   Use hydralazine as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes aggressively with hypoNa mgmt
   as above, regular diet with free water restriction
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Possibly transfer to floor today

2125-05-20 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-19**] 09:02 AM
   [**5-19**]
   -Spoke with Mrs. [**Name (NI) 985**] (Pts Mother) and updated her on his status.
   -Per Renal redose lasix 40mg IV if Uosm rise or serum Na falls.
   Continue forced diuresis with NS or equivalent.
   -Per Psych may treat aggitation with 2-5mg Haldol IV/PO and follow QTc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-20**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 60 (59 - 117) bpm
   BP: 134/71(88) {130/70(84) - 176/85(105)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,440 mL
                                                                  1,154 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  4,360 mL
                                                                  1,154 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    850 mL
   Urine:
                                                                  3,020 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.4 g/dL
   96 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.1 mEq/L
   61 mg/dL
   101 mEq/L
   133 mEq/L
   23.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
                             [**2125-5-19**]  05:57 AM
                             [**2125-5-19**]  11:55 AM
                             [**2125-5-19**]  05:40 PM
                             [**2125-5-20**]  04:17 AM
   WBC
   11.3
   12.3
   10.0
   Hct
   25.6
   26.2
   23.5
   Plt
   174
   219
   230
   Cr
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   4.6
   4.4
   3.9
   3.5
   TropT
   0.03
   Glucose
   99
   98
   95
   134
   126
   119
   124
   119
   107
   96
   Other labs: PT / PTT / INR:11.8/24.8/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7357**]/249/0.03, ALT / AST:317/625, Alk Phos / T Bili:41/0.7,
   Lactic Acid:4.2 mmol/L, LDH:1208 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Cdiff
 negative
   RPR, stool cx, stool campylobacter PENDING
   Assessment and Plan
   49 y/o M with altered mental status and multiple electrolytes with a
   history of bipolar disorder on multiple psychiatric medications.
   # Hyponatremia
 improving.   Most recent sodium this morning was 133.
   - continue to give patient NS at 200cc/hr
   - will recheck lytes at 1200
   # Hypokalemia
 pt received some potassium supplementation overnight.
   However, most recent potassium level was still low at 3.1.  Per
   nursing, pt did have some diarrhea overnight.
   - will give 40 meq of KCl PO
   - will recheck lytes at 1200
   #  Acute Renal Failure
 likely associated with rhabdomyolysis, as pt
   presented with a CPK of [**Numeric Identifier 7362**].  Pt did report falling, but his
   injuries were out of proportion to his history.
   - CPK trending down
 most recent value last night was [**Numeric Identifier 7357**]
   - BUN and Cr also trending down
 most recent were 61 and 3.5
   - continue to administer NS at 200cc/hr
   - follow-up renal consult
   - continue to monitor electrolytes
   - follow-up social work recommendations
   #  Altered Mental Status
 improved.  Per nursing, pt is no longer
   confusing or having hallucinations.  Off of restraints since 10pm last
   night.
   - will continue to closely monitor patient
s mental status
   - continue to administer fluids for hyponatremia/rhabdo
   # Bipolar D/o
 currently holding all psych meds per intial psych
   recommendations
   - will await psych recs on when to restart medications
   - can give 2mg Haldol PRN for agitation with follow-up EKG to check
   QTc.  Ativan has previously worsened pts agitation.
   .
   # Pneumothorax
 pt presented with a small right sided apical. Surgery
   evaluated and recommended follow-up CXR.  No worsening of the
   pneumothorax was noted on follow-up CXR
   - monitor for any changes in respiratory status
   - possibly get PA and lateral CXR now that pt
s altered mental status
   is improving
   # HTN
 at home, pt on atenolol and HCTZ
 atenolol held due to HR and
   HCTZ held due to hyponatremia
   - hydralazine PRN as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes PRN, regular diet with free
   water restriction
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Possibly transfer to floor today

2125-05-20 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-19**] 09:02 AM
   -Spoke with Mrs. [**Name (NI) 985**] (Pts Mother) and updated her on his status.
   -Per Renal redose lasix 40mg IV if Uosm rise or serum Na falls.
   Continue forced diuresis with NS or equivalent.
   -Per Psych may treat aggitation with 2-5mg Haldol IV/PO and follow QTc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-20**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 60 (59 - 117) bpm
   BP: 134/71(88) {130/70(84) - 176/85(105)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,440 mL
                                                                  1,154 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  4,360 mL
                                                                  1,154 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    850 mL
   Urine:
                                                                  3,020 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (2L)
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General
 alert and oriented to person, place, and date
   CV
 regular rate and rhythm, systolic ejection murmur ([**12-29**]) noted
   Resp
 clear to auscultation anteriorly
   Abdomen
 soft, non-tender, non-distended, BS present
   Extremities
 2+ radial and DP pulses
   Labs / Radiology
   230 K/uL
   8.4 g/dL
   96 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.1 mEq/L
   61 mg/dL
   101 mEq/L
   133 mEq/L
   23.5 %
   10.0 K/uL
        [image002.jpg]
   Other Urine Chemistry:
   Osmolal:397
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
                             [**2125-5-19**]  05:57 AM
                             [**2125-5-19**]  11:55 AM
                             [**2125-5-19**]  05:40 PM
                             [**2125-5-20**]  04:17 AM
   WBC
   11.3
   12.3
   10.0
   Hct
   25.6
   26.2
   23.5
   Plt
   174
   219
   230
   Cr
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   4.6
   4.4
   3.9
   3.5
   TropT
   0.03
   Glucose
   99
   98
   95
   134
   126
   119
   124
   119
   107
   96
   Other labs: PT / PTT / INR:11.8/24.8/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7357**]/249/0.03, ALT / AST:317/625, Alk Phos / T Bili:41/0.7,
   Lactic Acid:4.2 mmol/L, LDH:1208 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Cdiff
 negative
   RPR, stool cx, stool campylobacter PENDING
   Assessment and Plan
   49 y/o M with altered mental status and multiple electrolytes with a
   history of bipolar disorder on multiple psychiatric medications.
   # Hyponatremia
 improving.   Most recent sodium this morning was 133.
   - continue to give patient NS at 200cc/hr
   - will recheck lytes at 1200
   # Hypokalemia
 pt received some potassium supplementation overnight.
   However, most recent potassium level was still low at 3.1.  Per
   nursing, pt did have some diarrhea overnight.
   - ordered 40 meq of KCl PO but pt was having some nausea
 switched to
   40 meq KCl IV
   - will recheck lytes at 1200
   #  Acute Renal Failure
 likely associated with rhabdomyolysis, as pt
   presented with a CPK of [**Numeric Identifier 7362**].  Pt did report falling, but his
   injuries were out of proportion to his history.
   - CPK trending down
 most recent value last night was [**Numeric Identifier 7357**]
   - BUN and Cr also trending down
 most recent were 61 and 3.5
   - continue to administer NS at 200cc/hr
   - follow-up renal consult
   - continue to monitor electrolytes
   - follow-up social work recommendations
   #  Altered Mental Status
 improved.  Per nursing, pt is no longer
   confusing or having hallucinations.  Off of restraints since 10pm last
   night.
   - will continue to closely monitor patient
s mental status
   - continue to administer fluids for hyponatremia/rhabdo
   # Bipolar D/o
 currently holding all psych meds per intial psych
   recommendations
   - would like to restart pt
s psych meds if possible - will talk to
   psych about restarting meds
   - can give 2mg Haldol PRN for agitation with follow-up EKG to check
   QTc.  Ativan has previously worsened pts agitation.
   .
   # Pneumothorax
 pt presented with a small right sided apical. Surgery
   evaluated and recommended follow-up CXR.  No worsening of the
   pneumothorax was noted on follow-up CXR
   - monitor for any changes in respiratory status
   # HTN
 at home, pt on atenolol and HCTZ
 atenolol held due to HR and
   HCTZ held due to hyponatremia
   - hydralazine PRN as needed for SBP>160
   - pt should not be restarted on HCTZ ever, considering the profound
   hyponatremia on admission
 will add HCTZ to pt
s list of allergies
   .
   # FEN: IVF as above, replete electrolytes PRN, regular diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor today

2125-05-20 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-19**] 09:02 AM
   [**5-19**]
   -Spoke with Mrs. [**Name (NI) 985**] (Pts Mother) and updated her on his status.
   -Per Renal redose lasix 40mg IV if Uosm rise or serum Na falls.
   Continue forced diuresis with NS or equivalent.
   -Per Psych may treat aggitation with 2-5mg Haldol IV/PO and follow QTc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-20**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 60 (59 - 117) bpm
   BP: 134/71(88) {130/70(84) - 176/85(105)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,440 mL
                                                                  1,154 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  4,360 mL
                                                                  1,154 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    850 mL
   Urine:
                                                                  3,020 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.4 g/dL
   96 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.1 mEq/L
   61 mg/dL
   101 mEq/L
   133 mEq/L
   23.5 %
   10.0 K/uL
        [image002.jpg]
   Other Urine Chemistry:
   Osmolal:397
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
                             [**2125-5-19**]  05:57 AM
                             [**2125-5-19**]  11:55 AM
                             [**2125-5-19**]  05:40 PM
                             [**2125-5-20**]  04:17 AM
   WBC
   11.3
   12.3
   10.0
   Hct
   25.6
   26.2
   23.5
   Plt
   174
   219
   230
   Cr
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   4.6
   4.4
   3.9
   3.5
   TropT
   0.03
   Glucose
   99
   98
   95
   134
   126
   119
   124
   119
   107
   96
   Other labs: PT / PTT / INR:11.8/24.8/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7357**]/249/0.03, ALT / AST:317/625, Alk Phos / T Bili:41/0.7,
   Lactic Acid:4.2 mmol/L, LDH:1208 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Cdiff
 negative
   RPR, stool cx, stool campylobacter PENDING
   Assessment and Plan
   49 y/o M with altered mental status and multiple electrolytes with a
   history of bipolar disorder on multiple psychiatric medications.
   # Hyponatremia
 improving.   Most recent sodium this morning was 133.
   - continue to give patient NS at 200cc/hr
   - will recheck lytes at 1200
   # Hypokalemia
 pt received some potassium supplementation overnight.
   However, most recent potassium level was still low at 3.1.  Per
   nursing, pt did have some diarrhea overnight.
   - will give 40 meq of KCl PO
   - will recheck lytes at 1200
   #  Acute Renal Failure
 likely associated with rhabdomyolysis, as pt
   presented with a CPK of [**Numeric Identifier 7362**].  Pt did report falling, but his
   injuries were out of proportion to his history.
   - CPK trending down
 most recent value last night was [**Numeric Identifier 7357**]
   - BUN and Cr also trending down
 most recent were 61 and 3.5
   - continue to administer NS at 200cc/hr
   - follow-up renal consult
   - continue to monitor electrolytes
   - follow-up social work recommendations
   #  Altered Mental Status
 improved.  Per nursing, pt is no longer
   confusing or having hallucinations.  Off of restraints since 10pm last
   night.
   - will continue to closely monitor patient
s mental status
   - continue to administer fluids for hyponatremia/rhabdo
   # Bipolar D/o
 currently holding all psych meds per intial psych
   recommendations
   - will await psych recs on when to restart medications
   - can give 2mg Haldol PRN for agitation with follow-up EKG to check
   QTc.  Ativan has previously worsened pts agitation.
   .
   # Pneumothorax
 pt presented with a small right sided apical. Surgery
   evaluated and recommended follow-up CXR.  No worsening of the
   pneumothorax was noted on follow-up CXR
   - monitor for any changes in respiratory status
   - possibly get PA and lateral CXR now that pt
s altered mental status
   is improving
   # HTN
 at home, pt on atenolol and HCTZ
 atenolol held due to HR and
   HCTZ held due to hyponatremia
   - hydralazine PRN as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes PRN, regular diet with free
   water restriction
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Possibly transfer to floor today

2125-05-20 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-19**] 09:02 AM
   [**5-19**]
   -Spoke with Mrs. [**Name (NI) 985**] (Pts Mother) and updated her on his status.
   -Per Renal redose lasix 40mg IV if Uosm rise or serum Na falls.
   Continue forced diuresis with NS or equivalent.
   -Per Psych may treat aggitation with 2-5mg Haldol IV/PO and follow QTc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-20**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 60 (59 - 117) bpm
   BP: 134/71(88) {130/70(84) - 176/85(105)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,440 mL
                                                                  1,154 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  4,360 mL
                                                                  1,154 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    850 mL
   Urine:
                                                                  3,020 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.4 g/dL
   96 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.1 mEq/L
   61 mg/dL
   101 mEq/L
   133 mEq/L
   23.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
                             [**2125-5-19**]  05:57 AM
                             [**2125-5-19**]  11:55 AM
                             [**2125-5-19**]  05:40 PM
                             [**2125-5-20**]  04:17 AM
   WBC
   11.3
   12.3
   10.0
   Hct
   25.6
   26.2
   23.5
   Plt
   174
   219
   230
   Cr
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   4.6
   4.4
   3.9
   3.5
   TropT
   0.03
   Glucose
   99
   98
   95
   134
   126
   119
   124
   119
   107
   96
   Other labs: PT / PTT / INR:11.8/24.8/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7357**]/249/0.03, ALT / AST:317/625, Alk Phos / T Bili:41/0.7,
   Lactic Acid:4.2 mmol/L, LDH:1208 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Possibly transfer to floor today

2125-05-20 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-5-19**] 09:02 AM
   [**5-19**]
   -Spoke with Mrs. [**Name (NI) 985**] (Pts Mother) and updated her on his status.
   -Per Renal redose lasix 40mg IV if Uosm rise or serum Na falls.
   Continue forced diuresis with NS or equivalent.
   -Per Psych may treat aggitation with 2-5mg Haldol IV/PO and follow QTc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-20**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 60 (59 - 117) bpm
   BP: 134/71(88) {130/70(84) - 176/85(105)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  5,440 mL
                                                                  1,154 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  4,360 mL
                                                                  1,154 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    850 mL
   Urine:
                                                                  3,020 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,420 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.4 g/dL
   96 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.1 mEq/L
   61 mg/dL
   101 mEq/L
   133 mEq/L
   23.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2125-5-18**]  01:00 AM
                             [**2125-5-18**]  04:16 AM
                             [**2125-5-18**]  11:55 AM
                             [**2125-5-18**]  03:48 PM
                             [**2125-5-18**]  08:04 PM
                             [**2125-5-19**]  02:05 AM
                             [**2125-5-19**]  05:57 AM
                             [**2125-5-19**]  11:55 AM
                             [**2125-5-19**]  05:40 PM
                             [**2125-5-20**]  04:17 AM
   WBC
   11.3
   12.3
   10.0
   Hct
   25.6
   26.2
   23.5
   Plt
   174
   219
   230
   Cr
   5.7
   5.5
   5.4
   5.2
   5.1
   4.7
   4.6
   4.4
   3.9
   3.5
   TropT
   0.03
   Glucose
   99
   98
   95
   134
   126
   119
   124
   119
   107
   96
   Other labs: PT / PTT / INR:11.8/24.8/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7357**]/249/0.03, ALT / AST:317/625, Alk Phos / T Bili:41/0.7,
   Lactic Acid:4.2 mmol/L, LDH:1208 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Cdiff
 negative
   RPR, stool cx, stool campylobacter PENDING
   Assessment and Plan
   Assessment and Plan: This is a 49 y/o M with a history of bipolar
   disorder on multiple psychiatric medications who presents with
   confusion, profound hyponatremia, renal failure and rhabdomyolysis.
   #  Altered Mental Status - osm gap is 15, which is high. Has many
   reasons to be altered, including hyponatremia, uremia, drug or toxin
   ingestion. Renal feels that he likely dropped his sodium quickly.
   Ingestion is also high on the differential, given his osm gap.
   - monitor closely
   -Try redirection for delirium.
   .
   #  Acute Renal Failure - likely ATN secondary to rhabdomyolysis with
   critically high CK and evidence of myoglobinuria. FeUrea is 62%.
   Abnormal ALT/AST likely muscle source. Unclear underlying etiology of
   his rhabdo - differential includes alcohol, drugs and toxins infections
   (including HIV), electrolyte abnormalities (unclear what was
   precipitant), endocrinopathies and inflammatory myopathy. NMS is also
   on the differential, but patient's tone and temperature were normal. No
   obvious signs of infection. Osm gap raises suspicion for ingestion,
   initial basic tox screens were only positive for benzos. A seizure is
   possible, as he lives alone. Diffuse ecchymoses could be indication for
   injury but history is vague. My suspicion is that the patient suffered
   traumatic attack given the extent of his injuries. It's unclear if he
   does not recall or if he does not feel safe to talk to us about it at
   this time.
   - renal c/s now
   - monitor electrolytes
   - social work c/s awaiting recs.
   - zofran prn for nausea
   - renal to look at sediment - appreciate recs
   .
   # Hyponatremia - unclear etiology. ?psychiatric medications misuse or
   overdose, psychogenic polydipsia in the setting of ATN. Renal feels
   most likely the latter. Patient seems to think that this has happened
   to him in the past and it was med related, however denies any recent
   changes in medications or doses.
   - per renal switched to NS.
   -Continue to follow lytes 1200/1800hrs.
   .
   # Bipolar D/o - holding all psych meds, await recs from psych c/s. Do
   not want to exacerbate hyponatremia right now if possible. Will try
   redirection and distraction for agitation but may use Haldol 2mg IV PRN
   and follow EKG to eval QTc (currently 463).  [**Month (only) 8**] also use Ativan
   however this made patient more delirious in past.
   -EKG to follow QTc
   .
   # Pneumothorax - right sided apical. Surgery evaluated. CXR repeated
   this AM, however patient supine making it difficult to evaluate small
   pneumothorax.  Once patient able to participate for PA/Lat will
   re-image.
   # HTN - holding atenolol for HR in 50's, holding HCTZ for hyponatremia.
   Use hydralazine as needed for SBP>160.
   .
   # FEN: IVF as above, replete electrolytes aggressively with hypoNa mgmt
   as above, regular diet with free water restriction
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-5-18**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Possibly transfer to floor today